US05882628
a. 3,5-Diaminobenzylalcohol
A solution of 3,5-dinitrobenzylalcohol (2.20 g, 11.1 mmol) in methanol (90 ml) and a Pd/C catalyst (10%, 100 mg) was hydrogenated in a Parr apparatus at 60 psi. The solution was filtered and the solvent was removed by evaporation. The crude product was used without purification in the next step.

reactant | 3,5-dinitrobenzylalcohol | 11.1 mmol, 2.20 g | [N+](=O)([O-])C=1C=C(CO)C=C(C1)[N+](=O)[O-] | C7H6N2O5
solvent | methanol | 90 ml | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 3,5-Diaminobenzylalcohol | NC=1C=C(CO)C=C(C1)N | C7H10N2O
